### ISSUE TITLE
RFC: Better error reports for incomplete `calc`

### ISSUE THREAD

**Issue by YaelDillies** [leanprover/lean4#4318]
### Proposal

Currently, `calc` errors can be very confusing to beginners. Consider the following:
```
example (n : Nat) (h : n = 1 + n) : 0 = 1 :=
  calc
    0 = n - n := sorry
/-
type mismatch
  sorryAx (0 = n - n)
has type
  0 = n - n : Prop
but is expected to have type
  0 = 1 : Prop
-/

example (n : Nat) (h : n = 1 + n) : 0 = 1 :=
  calc
    1 + n - n = 1 := sorry
/-
type mismatch
  sorryAx (1 + n - n = 1)
has type
  1 + n - n = 1 : Prop
but is expected to have type
  0 = 1 : Prop
-/
```

It would much more helpful (to beginners mostly) to have error messages of the form
```
The RHS of the `calc` block is
  n - n : Nat
but is expected to be
  1 : Nat
Did you forget a `calc` step?

The LHS of the `calc` block is
  1 + n - n : Nat
but is expected to be
  0 : Nat
Did you forget a `calc` step?
```

The tactic mode `calc` does better but still not quite as detailed as I would like:
```
example (n : Nat) (h : n = 1 + n) : 0 = 1 := by
  calc
    0 = n - n := sorry
/-
'calc' tactic failed, has type
  0 = n - n
but it is expected to have type
  0 = 1
-/

example (n : Nat) (h : n = 1 + n) : 0 = 1 := by
  calc
    1 + n - n = 1 := sorry
/-
'calc' tactic failed, has type
  1 + n - n = 1
but it is expected to have type
  0 = 1
-/
```

### Community Feedback

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/beginner.20error.20with.20ring.20tactic/near/441806892)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by eric-wieser** [comment]
I wonder if there's a middle ground between "RFC" and "bug" for "error message improvement suggestions"; they might be quite useful for collecting 👍s to work out which ones bite new users the most, but an RFC feels like overkill for something that doesn't affect behavior of working code.

**Comment by rzeta0** [comment]
I support Yael's proposal to make the error messages more meaningful. It is important for a project like Lean to reduce the barrier to newcomers, and avoid it becoming only a tool for those who are already experts.

**Comment by YaelDillies** [comment]
> I wonder if there's a middle ground between "RFC" and "bug" for "error message improvement suggestions"; they might be quite useful for collecting 👍s to work out which ones bite new users the most, but an RFC feels like overkill for something that doesn't affect behavior of working code.

I was thinking the same when writing this RFC.

**Comment by nomeata** [comment]
Why is it overkill? The proposal above nicely describes the issue and gives context, that seems to be a useful format to suggest an improvement?

**Comment by Kha** [comment]
RFC accepted
